US07557103B2
2-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-thieno[3,2-b]pyridine-3-carbonitrile
50 mg of 3-(3-Bromo-thieno[3,2-b]pyridin-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.12 mmol) and 32 mg of copper (I) cyanide (0.36 mmol) are placed into a reaction vial with 2.0 ml of dry DMF. The vial is capped with a Teflon cap and heated at 120° C. overnight. The reaction mixture is applied onto a silica-gel chromatography column (1st column; Hexane:AcOEt=5:1, 2nd column; Hexane:AcOEt:2M NH3 in MeOH=20:4:1) to give 7.2 mg of the title compound (16%). mass spectrum (m/e): 376; 1H-NMR (CDCl3): 8.86 (m, 1H), 8.22 (m, 1H), 7.40 (dd, 1H, J=8.2 Hz, 4.6 Hz), 6.83 (s, 1H), 3.32 (m, 1H), 2.73 (s, 3H), 2.60 (s, 3H), 1.85 (m, 4H), 0.88 (t, 6H, J=7.5 Hz) ppm.

reactant | 3-(3-Bromo-thieno[3,2-b]pyridin-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.12 mmol, 50 mg | BrC1=C(SC=2C1=NC=CC2)C2=C(N=C1N2N=C(C=C1C(CC)CC)C)C | C20H21BrN4S
reactant | copper (I) cyanide | 0.36 mmol, 32 mg | [Cu]C#N
reactant | DMF | 2.0 ml | CN(C)C=O | C3H7NO
reactant | NH3 | 2M | N | H3N
solvent | MeOH | CO | CH4O
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | Hexane | CCCCCC | C6H14
product | 2-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-thieno[3,2-b]pyridine-3-carbonitrile | 7.2 mg, 16% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(C1=NC=CC=C1S2)C#N | C21H21N5S
